US08476434B2
In a sealed tube, added 1-(chloromethyl)-2-nitro-4-(trifluoromethyl)benzene (2.0 g, 8.4 mmol), tetrahydrofuran (8.4 mL), and 2-aminoethanol (5.0 mL, 83.5 mmol). Stirred the mixture at room temperature for 45 minutes. Extracted the mixture into ethyl acetate, washed 2 times with water, 1 time with brine solution, dried over magnesium sulfate, filtered, concentrated to yield 2-(2-nitro-4-(trifluoromethyl)benzylamino)ethanol. MS (M+H)+=265; Calc'd 264.21 for C10H11F3N2O3.

reactant | 1-(chloromethyl)-2-nitro-4-(trifluoromethyl)benzene | 8.4 mmol, 2.0 g | ClCC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C8H5ClF3NO2
reactant | 2-aminoethanol | 83.5 mmol, 5.0 mL | NCCO | C2H7NO
solvent | tetrahydrofuran | 8.4 mL | O1CCCC1 | C4H8O
product | 2-(2-nitro-4-(trifluoromethyl)benzylamino)ethanol | [N+](=O)([O-])C1=C(CNCCO)C=CC(=C1)C(F)(F)F | C10H11F3N2O3
